US04166174
1-Ethoxycarbonyl-1,2,3,6-tetrahydro-2-[1-(4-methoxyphenyl)-1-methylethyl]-4-methylpyridine (3.17 g) dissolved in 10 ml of dried tetrahydrofuran was added dropwise to a suspension of 0.9 g of lithium aluminium hydride in 5 ml of dried tetrahydrofuran while stirring under cooling with ice and then the mixture was refluxed for 30 minutes. After cooling, water-containing ether (150 ml) and then 10 ml of a 30% sodium hydroxide aqueous solution was added dropwise to the mixture while stirring under cooling with ice. An diethyl ether-tetrahydrofuran layer was decanted and combined with the diethyl ether portions with which the remaining matter had been washed. The combined liquid was dried over potassium carbonate, stripped of the solvent and distilled under reduced pressure to obtain 2.1 g of 1,2,3,6-tetrahydro-2-[1-(4-methoxyphenyl)-1-methylethyl]-1,4-dimethylpyridine as a colorless viscous mass.

reactant | 1-Ethoxycarbonyl-1,2,3,6-tetrahydro-2-[1-(4-methoxyphenyl)-1-methylethyl]-4-methylpyridine | 3.17 g | C(C)OC(=O)N1C(CC(=CC1)C)C(C)(C)C1=CC=C(C=C1)OC | C19H27NO3
reactant | lithium aluminium hydride | 0.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ether | 150 ml | CCOCC | C4H10O
product | 1,2,3,6-tetrahydro-2-[1-(4-methoxyphenyl)-1-methylethyl]-1,4-dimethylpyridine | 2.1 g | COC1=CC=C(C=C1)C(C)(C)C1N(CC=C(C1)C)C | C17H25NO
